US06258824B1
23A. 6-Bromo-4-(3-ethoxy-phenyl)-2-methoxy-quinoline
To a suspension of 6-bromo-4-(3-ethoxy-phenyl)-1H-quinolin-2-one (7.4 g, 21.5 mmol) in 60 ml dichloroethane was added trimethyloxonium tetrafluoroborate (BF4OMe3, 3.66 g, 24.7 mmol). The resulting mixture was stirred at ambient temperature overnight. After cooling to 0 C, was added 60 ml of 10% aqueous NaOH dropwise. The reaction mixture was stirred for another six hours at ambient temperature. It was then partitioned between dichloromethane and water. The organic layer was washed brine, dried over MgSO4, filtered and concentrated under vacuum to give an off-white solid. The solid was chromatographed on flash silica gel eluting with dichoromethane to yield the titled compound of 23A as a white solid (4.48 g, 58% yield).

reactant | 6-bromo-4-(3-ethoxy-phenyl)-1H-quinolin-2-one | 21.5 mmol, 7.4 g | BrC=1C=C2C(=CC(NC2=CC1)=O)C1=CC(=CC=C1)OCC | C17H14BrNO2
reactant | trimethyloxonium tetrafluoroborate | 24.7 mmol, 3.66 g | F[B-](F)(F)F.C[O+](C)C
reactant | NaOH | 60 ml | [OH-].[Na+]
solvent | dichloroethane | 60 ml | ClC(C)Cl | C2H4Cl2
product | 6-Bromo-4-(3-ethoxy-phenyl)-2-methoxy-quinoline | 4.48 g, 58% yield | BrC=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)OCC | C18H16BrNO2
